US07291624B2
Production of N-(2-chloro-5-fluoro-4-pyrimidinyl)-N-2-propynylamine
11.1 g (66 mmol) of 2,4-dichloro-5-fluoropyrimidine is dissolved in 60 ml of acetonitrile, and 10.2 ml (73 mmol) of triethylamine and 6.0 ml (86 mmol) of propynylamine are added. The reaction mixture is stirred overnight at room temperature and then poured into water. The mixture is extracted by means of ethyl acetate, the combined organic phases are dried on MgSO2, and the solvent is evaporated by means of underpressure. After the remaining material is recrystallized with diisopropyl ether/hexane, the yield is 10.6 g (87% of theory) of the product.

reactant | 2,4-dichloro-5-fluoropyrimidine | 66 mmol, 11.1 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | triethylamine | 73 mmol, 10.2 ml | C(C)N(CC)CC | C6H15N
reactant | propynylamine | 86 mmol, 6.0 ml | C(#CC)N | C3H5N
reactant | water | O | H2O
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | N-(2-chloro-5-fluoro-4-pyrimidinyl)-N-2-propynylamine | ClC1=NC=C(C(=N1)NCC#C)F | C7H5ClFN3
